US08466289B2
Synthesis of Intermediate 3-(benzyloxy)cyclobutane-1-sulfonyl chloride (I-25c)
POCl3 (0.34 mL, 3.558 mmol) was added to a cooled solution of potassium 3-(benzyloxy)cyclobutane-1-sulfonate (0.5 g, 1.779 mmol) in dry DCM (10 mL) at 0° C. This was followed by the slow addition of diisopropyl ethyl amine (0.65 mL, 3.558 mmol) and stirred the resulting reaction mixture at 0° C. for 2 hours. The reaction was monitored by TLC (20% ethyl acetate in hexane). The reaction mixture was extracted with DCM. The organic layer was washed with water, brine solution, dried over Na2SO4 and concentrated. Purification by column chromatography on silica gel (8% ethyl acetate in hexane) afforded 0.15 g of the product (38% yield).

reactant | POCl3 | 3.558 mmol, 0.34 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | potassium 3-(benzyloxy)cyclobutane-1-sulfonate | 1.779 mmol, 0.5 g | C(C1=CC=CC=C1)OC1CC(C1)S(=O)(=O)[O-].[K+]
reactant | diisopropyl ethyl amine | 3.558 mmol, 0.65 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | 3-(benzyloxy)cyclobutane-1-sulfonyl chloride | 0.15 g, 38% yield | C(C1=CC=CC=C1)OC1CC(C1)S(=O)(=O)Cl | C11H13ClO3S
